US07034052B2
To a solution of (1S)-1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine (1.4 g, 5.1 mmol) in DMF (20 ml) was added 2-bromomethyl-3-chloro-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (1.6 g, 4.6 mmol) and triethyl amine (2.0 ml, 14 mmol). The mixture was heated at 90° C. overnight. The solvent was removed in vacuo. The resulted oil was extracted with ethyl acetate (50 ml) and water (30 ml). The organic layer was washed with water (30 ml×2), brine (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo and the resulted oil was purified by silica gel column to give (1S)-cyclopropanecarboxylic acid {7-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (650 mg, 30%): mp, 197–199° C.; 1H NMR (CDCl3) δ 0.89–0.93 (m, 2H, c-CH2), 1.08–1.12 (m, 2H, c-CH2), 1.44 (t, J=7.0 Hz, 3H, OCH2CH3), 1.65–1.69 (m, 1H, c-CH), 2.97 (s, 3H, CH3SO2), 3.70 (dd, J=5, 15 Hz, 1H, CHH), 3.87(s, 3H, OCH3), 4.05–4.23 (m, 4H, NCH+CH+OCH2CH3), 4.41 (d, J=17 Hz, 1H, CHH), 5.75–5.81 (m, 1H, CHN), 6.86–6.96 (m, 3H, Ar), 7.39 (d, J=9.0 Hz, 1H, Ar), 8.45(d, J=9.0 Hz, 1H, Ar), 10.36 (s, 1H, NHCO). 13CNMR (CDCl3): δ 8.5, 14.7, 16.2, 41.6, 46.9, 51.3, 55.5, 56.0, 64.7, 111.7, 112.3, 118.6, 119.3, 119.7, 121.8, 129.1, 133.2, 136.8, 139.0, 149.0, 149.9, 169.2, 172.6; Anal Calcd for C24H27ClN2O6S: C, 56.86; H, 5.37; N, 5.53. Found: C, 56.81; H, 5.26; N, 5.56.

reactant | (1S)-1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine | 5.1 mmol, 1.4 g | C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N | C12H19NO4S
reactant | 2-bromomethyl-3-chloro-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 4.6 mmol, 1.6 g | COC(C1=C(C(=CC=C1NC(=O)C1CC1)Cl)CBr)=O | C13H13BrClNO3
reactant | triethyl amine | 14 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (1S)-cyclopropanecarboxylic acid {7-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 650 mg, 30% | ClC=1C=CC(=C2C(N(CC12)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)NC(=O)C1CC1 | C24H27ClN2O6S
